US08138197B2
4-(1-cyclopropyl-1H-pyrazol-4-yl)-3,5-diethoxybenzoic acid
To a solution of Methyl 4-(1-cyclopropyl-1H-pyrazol-4-yl)-3,5-diethoxybenzoate (20 mg) in MeOH (3 ml) was added aqueous 1N NaOH (240 ul) at room temperature, and the reaction mixture was stirred for over night. The mixture was concentrated under reduced pressure and aqueous 1N HCl (240 ul) was added to the residue. The mixture was concentrated under reduced pressure and dried in vacuo to give the crude title compound which was used in the next step without further purification.

reactant | Methyl 4-(1-cyclopropyl-1H-pyrazol-4-yl)-3,5-diethoxybenzoate | 20 mg | C1(CC1)N1N=CC(=C1)C1=C(C=C(C(=O)OC)C=C1OCC)OCC | C18H22N2O4
reactant | NaOH | 1N, 240 ul | [OH-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | 4-(1-cyclopropyl-1H-pyrazol-4-yl)-3,5-diethoxybenzoic acid | C1(CC1)N1N=CC(=C1)C1=C(C=C(C(=O)O)C=C1OCC)OCC | C17H20N2O4
